US07795453B2
6-[(tert-Butoxycarbonyl)amino]-1-benzothiophene-2-carboxylic acid
400 mg (2.07 mmol) of 6-amino-1-benzothiophene-2-carboxylic acid and 1.36 g (6.21 mmol) of di-tert-butyl pyrocarbonate are stirred in a mixture of 5 ml of dioxane and 10 ml of aqueous 1 N sodium bicarbonate solution at room temperature for 18 h. The solution is adjusted to pH 5-6 with 10% strength aqueous citric acid solution and extracted four times with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated. The residue is chromatographed on silica gel (mobile phase: dichloromethane/methanol). 214 mg (30% of theory) of the title compound are obtained.

reactant | 6-amino-1-benzothiophene-2-carboxylic acid | 2.07 mmol, 400 mg | NC1=CC2=C(C=C(S2)C(=O)O)C=C1 | C9H7NO2S
reactant | di-tert-butyl pyrocarbonate | 6.21 mmol, 1.36 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 1 N | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 6-[(tert-Butoxycarbonyl)amino]-1-benzothiophene-2-carboxylic acid | C(C)(C)(C)OC(=O)NC1=CC2=C(C=C(S2)C(=O)O)C=C1 | C14H15NO4S
